US07326715B2
A: 2-Methylthio-4-(2-piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl-phenyl)-pyrimidine
Sodium hydride (30 mg, 1.23 mmol) was added to a mixture of 4-chloro-2-methylthio-6-(3-trifluoromethyl-phenyl)-pyrimidine (187 mg, 0.62 mmol) and 1-(2-hydroxyethyl)piperidine (120 μl, 0.92 mmol) in dry THF (6 ml). The mixture was heated at 40° C. for 2 h. After cooling, water and tert-butyl-methyl ether were added. The aqueous layer was extracted twice with tBuOMe. The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent: CH2Cl2 to CH2Cl2/MeOH 95/5) to yield the above titled compound: 190 mg (yield: 78%).

reactant | Sodium hydride | 1.23 mmol, 30 mg | [H-].[Na+]
reactant | 4-chloro-2-methylthio-6-(3-trifluoromethyl-phenyl)-pyrimidine | 0.62 mmol, 187 mg | ClC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)SC | C12H8ClF3N2S
reactant | 1-(2-hydroxyethyl)piperidine | 0.92 mmol, 120 μl | OCCN1CCCCC1 | C7H15NO
reactant | water | O | H2O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | tert-butyl-methyl ether | C(C)(C)(C)OC | C5H12O
product | 2-Methylthio-4-(2-piperidin-1-yl-ethoxy)-6-(3-trifluoromethyl-phenyl)-pyrimidine | yield: 78% | CSC1=NC(=CC(=N1)OCCN1CCCCC1)C1=CC(=CC=C1)C(F)(F)F | C19H22F3N3OS
